US08470859B2
5-chloro-2-imino-1-[4-(methylsulfonyl)benzyl]-1,2-dihydropyridine-3-carboxamide hydrobromide
To a solution of 2-amino-5-chloronicotinamide (0.15 g) in N,N-dimethylformamide (3 ml) was added 1-(bromomethyl)-4-(methylsulfonyl)benzene (0.33 g), and the mixture was stirred at 100° C. for 8 hr. The reaction mixture was diluted with ethyl acetate. The precipitate was collected by filtration and washed with ethyl acetate. The obtained precipitate was recrystallized from methanol-ethyl acetate to give the title compound (126 mg).

reactant | 2-amino-5-chloronicotinamide | 0.15 g | NC1=C(C(=O)N)C=C(C=N1)Cl | C6H6ClN3O
reactant | 1-(bromomethyl)-4-(methylsulfonyl)benzene | 0.33 g | BrCC1=CC=C(C=C1)S(=O)(=O)C | C8H9BrO2S
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-chloro-2-imino-1-[4-(methylsulfonyl)benzyl]-1,2-dihydropyridine-3-carboxamide hydrobromide | 126 mg | Br.ClC=1C=C(C(N(C1)CC1=CC=C(C=C1)S(=O)(=O)C)=N)C(=O)N | InChI=1S/C14H14ClN3O3S.BrH/c1-22(20,21)11-4-2-9(3-5-11)7-18-8-10(15)6-12(13(18)16)14(17)19;/h2-6,8,16H,7H2,1H3,(H2,17,19);1H
